US07776877B2
A solution of N-[2-(4-amino-pyrazol-1-yl)-5-chloro-pyridin-3-yl]-4-tert-butyl-benzenesulfonamide (20 mg, 0.049 mmol), acetyl chloride (3.5 μL, 0.049 mmol), and triethylamine (14 μL, 0.099 mmol) were stirred at room temperature for 1 hour. The reaction was concentrated in vacuo, followed by the addition of dicholoromethane (1 mL) and tetrabutylammonium fluoride (0.4 mL, 1.0 M in THF). The reaction was stirred for 2 hours at room temperature and then the crude mixture was partitioned with saturated sodium bicarbonate. The aqueous phase was subsequently extracted with dichloromethane and the combined organic layers dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography (0-100% ethyl acetate in hexanes) to afford N-{1-[3-(4-tert-butyl-benzenesulfonylamino)-5-chloro-pyridin-2-yl]-1H-pyrazol-4-yl}-acetamide: MS (ES) M+H expected 448.1, found 448.0.

reactant | N-[2-(4-amino-pyrazol-1-yl)-5-chloro-pyridin-3-yl]-4-tert-butyl-benzenesulfonamide | 0.049 mmol, 20 mg | NC=1C=NN(C1)C1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)Cl | C18H20ClN5O2S
reactant | acetyl chloride | 0.049 mmol, 3.5 μL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 0.099 mmol, 14 μL | C(C)N(CC)CC | C6H15N
product | N-{1-[3-(4-tert-butyl-benzenesulfonylamino)-5-chloro-pyridin-2-yl]-1H-pyrazol-4-yl}-acetamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)N1N=CC(=C1)NC(C)=O | C20H22ClN5O3S
